US08097610B2
Preparation of [4-Chloro-3-[2-[1-(6-chlorobenzothiazole-2-yl)-4-ethyl piperidine-4-yl]ethoxy]phenyl]acetic acid methyl ester
A mixture of 6-chloro-2-[4-(2-chloroethyl)-4-ethyl piperidine-1-yl]benzothiazole (150 mg), (4-chloro-3-hydroxyphenyl)acetic acid methyl ester (176 mg), cesium carbonate (285 mg) and dimethylformamide (2 mL) was stirred at 75° C. for 24 hours. To the reaction solution was added water and extracted with ethyl acetate. The organic layer was washed with brine, and dried over sodium sulphate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph on silica gel to give the title compound (174 mg). Yield: 79%.

reactant | 6-chloro-2-[4-(2-chloroethyl)-4-ethyl piperidine-1-yl]benzothiazole | 150 mg | ClC1=CC2=C(N=C(S2)N2CCC(CC2)(CC)CCCl)C=C1 | C16H20Cl2N2S
reactant | (4-chloro-3-hydroxyphenyl)acetic acid methyl ester | 176 mg | COC(CC1=CC(=C(C=C1)Cl)O)=O | C9H9ClO3
reactant | cesium carbonate | 285 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | [4-Chloro-3-[2-[1-(6-chlorobenzothiazole-2-yl)-4-ethyl piperidine-4-yl]ethoxy]phenyl]acetic acid methyl ester | 174 mg, Yield: 79% | COC(CC1=CC(=C(C=C1)Cl)OCCC1(CCN(CC1)C=1SC2=C(N1)C=CC(=C2)Cl)CC)=O | C25H28Cl2N2O3S
